US05166155
Under a nitrogen atmosphere Na (0.25 g, 11 mmol) was dissolved in 100 ml of abs. ethanol and 6,7-dichloroquinoxalin-2(1H)-one (2.15 g, 10 mmol) (Liebigs Ann. Chem., (1982), 754) was added. The mixture was refluxed for 30 min., cooled to room temperature, and ethyl iodoacetate (1.43 ml, 12 mmol) was added. The clear reaction mixture was refluxed for 2 h during which time a precipitate was formed. This was filtered off, washed with abs. ethanol and dried to afford 2.56 g (85%) of 6,7-dichloro-1-ethoxycarbonylmethylquinoxalin-2(1H)-one. 1H-NMR (DMSO-d6):δ1.23 (t, 3H), 4.20 (q, 2H), 5.08 (s, 2H), 8.05 (s, 1H), 8.17 (s, 1H), 8.38 (s, 1H).

reactant | 6,7-dichloroquinoxalin-2(1H)-one | 10 mmol, 2.15 g | ClC=1C=C2N=CC(NC2=CC1Cl)=O | C8H4Cl2N2O
reactant | ethyl iodoacetate | 12 mmol, 1.43 ml | ICC(=O)OCC | C4H7IO2
solvent | ethanol | C(C)O | C2H6O
product | 6,7-dichloro-1-ethoxycarbonylmethylquinoxalin-2(1H)-one | 2.56 g, 85% | ClC=1C=C2N=CC(N(C2=CC1Cl)CC(=O)OCC)=O | C12H10Cl2N2O3
